US05541229
a) 4'-[(2-n-Butyl-benzimidazol-1-yl)-methyl]-2-(1-triphenylmethyltetrazol-5-yl)-biphenyl
0..87 g (5 mmol) of 2-n-butyl-benzimidazole is dissolved in 20 ml of dimethylsulphoxide and 0.61 g (5.5 mmol) of potassium tert.butoxide is added with stirring. After 1/2 hour, 4'-bromomethyl-2-(1-triphenylmethyl-1H-tetrazol-5-yl)-biphenyl is added and the mixture is stirred for 3 hours at ambient temperature. It is poured into about 50 ml of iced water and extracted by shaking 3 times using 30 ml of ethyl acetate each time. The ethyl acetate phase is extracted by shaking using 20 ml of water, dried over sodium sulphate and evaporated to dryness. The crude product is purified over a silica gel column (grain size: 0.063-0.2 mm, eluting agent: methylene chloride/ethanol=100:1).

reactant | 2-n-butyl-benzimidazole | 5 mmol, 0..87 g | C(CCC)C=1NC2=C(N1)C=CC=C2 | C11H14N2
reactant | potassium tert.butoxide | 5.5 mmol, 0.61 g | CC(C)([O-])C.[K+]
reactant | 4'-bromomethyl-2-(1-triphenylmethyl-1H-tetrazol-5-yl)-biphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | water | about 50 ml | O | H2O
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 4'-[(2-n-Butyl-benzimidazol-1-yl)-methyl]-2-(1-triphenylmethyltetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=CC=C2 | C44H38N6
